Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Penicillins / Zidovudine / Efavirenz / Nevirapine
 
Attending: ___.
 
Chief Complaint:
Left testicular pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ with HIV on HAART (CD4 477, VL undetectable in ___ and 
HTN who presents with left testicular pain. Began on ___. Was 
seen in HCA on ___ and diagnosed with epididymitis and given 
azithromycin 1g and cipro 500mg BID. Patient began taking 
medications however pain did not improve. Urine swab returned + 
for gonorrhea. Had fevers and worsening pain. Called ___ who 
advised that he should present to ED for evaluation. In ED, 
initial vitals were normal. Labs notable for leukocytosis to 
11.1. Patient underwent a scrotal ultrasound which showed 
confirmed diagnosis of left sided epididymitis. Patient was 
given CTX, doxycycline and ciprofloxacin and admitted for 
further care.

On arrival, the patient reports improved pain however continues 
to have some pain especially on movement. Denies dysuria. 
Reported fevers to 100.0 while home but no chills. No URI 
symptoms, nausea, vomiting, diarrhea, CP, cough or SOB. 
Otherwise feels well. Last sexual contact was several weeks ago. 
No insertive anal intercourse.

ROS: A 10 ROS was performed and otherwise negative
 
Past Medical History:
HIV
HTN
HSV
 
Social History:
___
Family History:
+CAD
 
Physical Exam:
VS: 98.1 113/77 73 19 98%RA
Gen: well appearing NAD
HEENT: EOMI, PERRL
Neck: supple, no cervical LAD
CV: nl s1s2 RRR no mrg
Pulm: CTAB
Abd: soft, TTP in suprapubic area, +BS
GU: TTP on palpation of left testicle with erythema and warmth
Ext: WWP, no edema
Neuro: grossly intact

DISCHARGE EXAM:
VSS
Gen: well appearing NAD
HEENT: EOMI, PERRL
Neck: supple, no cervical LAD
CV: nl s1s2 RRR no mrg
Pulm: CTAB
Abd: soft, TTP in suprapubic area, +BS
GU: TTP on palpation of left testicle with decreased erythema 
and warmth
Ext: WWP, no edema
Neuro: grossly intact
 
Pertinent Results:
___ 11:14AM   LACTATE-0.9
___ 11:11AM   GLUCOSE-114* UREA N-17 CREAT-1.3* SODIUM-134 
POTASSIUM-3.7 CHLORIDE-94* TOTAL CO2-27 ANION GAP-17
___ 11:11AM   WBC-11.1*# RBC-4.77 HGB-14.1 HCT-41.3 MCV-87 
MCH-29.6 MCHC-34.1 RDW-12.5 RDWSD-39.6
___ 11:11AM   NEUTS-72.9* ___ MONOS-4.9* EOS-0.5* 
BASOS-0.4 IM ___ AbsNeut-8.11*# AbsLymp-2.34 AbsMono-0.55 
AbsEos-0.06 AbsBaso-0.05
___ 11:11AM   PLT COUNT-267
___ 11:08AM URINE  BLOOD-SM NITRITE-NEG PROTEIN-100 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-0.2 PH-6.0 
LEUK-SM
___ 11:08AM URINE  ___ BACTERIA-FEW 
YEAST-NONE EPI-<1

Ultrasound results: 
Edematous and vascular left epididymis consistent with 
epididymitis.  No 
sonographic evidence to suggest orchitis. 

Blood cx ___: NGTD
Urine culture ___: Negative

___ 2:30 pm URINE

                            **FINAL REPORT ___

   Chlamydia trachomatis, Nucleic Acid Probe, with Amplification 
(Final
      ___: 
      Negative for Chlamydia trachomatis by ___ System, 
APTIMA COMBO 2
      Assay. 
      Validated for use on Urine Samples by the ___ 
Microbiology
      Laboratory. Performance characteristics on urine samples 
were found
      to be equivalent to those of FDA- approved TIGRIS APTIMA 
COMBO 2
      and/or COBAS Amplicor methods. 

   NEISSERIA GONORRHOEAE (GC), NUCLEIC ACID PROBE, WITH 
AMPLIFICATION
      (Final ___: 
      Reported to and read back by ___. ___ (___) ON 
___ AT
      11:28 AM. 
      NEISSERIA GONORRHOEAE. 
         Positive by ___ System, APTIMA COMBO 2 Assay. 
         Neisseria gonorrhoeae organism viability cannot be 
inferred since
         target nucleic acid may persist after treatment in the 
absence of
         viable organisms. 
         Although the specificity of the N. gonorrhoeae assay is 
very high,
         the positive predictive values may be suboptimal in 
patients
         without risk factors or compatible symptoms. Therefore, 
positive
         results should be interpreted in their clinical 
context. 
         Validated for use on Urine Samples by the ___ 
Microbiology
         Laboratory. Performance characteristics on urine 
samples were
         found to be equivalent to those of FDA- approved TIGRIS 
APTIMA
         COMBO 2 and/or COBAS Amplicor methods. 

 
Brief Hospital Course:
___ with HIV on HAART (CD4 477, VL undetectable in ___ and 
HTN who presents with left testicular pain found to have 
epididymitis likely ___ gonococcus.

# Gonococcal epididymtis: Received CTX at ED. Ultrasound without 
abscess. Received azithromycin and cipro which were likely 
inadequate. Could represent resistance but seems less likely. 
Other infectious causes also seem less likely.  No signs or 
symptoms of disseminated infection.  Patient was treated CTX x 
1.  Urine and blood cultures were negative x 48hrs.  He was 
given tramadol as needed for pain with improvement in his 
symptoms.  He remained afebrile while inpatient. He was 
discharged home to f/u with his PCP.

# ARF: likely ___ hypovolemia in pt who has lost weight and 
continued on diuretic.  Chlorthalidone was held, pt was given 
IVF and Cr improved from 1.4 to 1.1 on day of discharge.

# Leukocytosis: Likely related to epididymitis, improved with 
treatment as above.

# Hypertension: BP remained on the low side. Pt reported that he 
has been exercises 3 times a week and has lost ~15lbs.  
Chlorthalidone was held upon discharge. Pt advised to discuss 
when and if to restart should his BP increase with his PCP.

# HIV: continue home medications

TRANSITIONAL ISSUES:
- chlorthalidone held on discharge, can be restarted as 
indicated as an outpatient
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. flunisolide 25 mcg (0.025 %) nasal BID 
2. fenofibrate micronized 134 mg oral DAILY 
3. Raltegravir 400 mg PO BID 
4. Emtricitabine-Tenofovir (Truvada) 1 TAB PO DAILY 
5. Atazanavir 300 mg PO DAILY 
6. RiTONAvir 100 mg PO DAILY 
7. Acyclovir 400 mg PO TID:PRN cold sores 
8. Ibuprofen 800 mg PO Q8H:PRN pain 
9. Ciprofloxacin HCl 500 mg PO Q12H 
10. Fexofenadine 180 mg PO DAILY 
11. Chlorthalidone 25 mg PO DAILY 

 
Discharge Medications:
1. Atazanavir 300 mg PO DAILY 
2. Emtricitabine-Tenofovir (Truvada) 1 TAB PO DAILY 
3. Raltegravir 400 mg PO BID 
4. RiTONAvir 100 mg PO DAILY 
5. Acyclovir 400 mg PO TID:PRN cold sores 
6. fenofibrate micronized 134 mg oral DAILY 
7. Fexofenadine 180 mg PO DAILY 
8. flunisolide 25 mcg (0.025 %) nasal BID 
9. Ibuprofen 800 mg PO Q8H:PRN pain 
10. TraMADOL (Ultram) 50-100 mg PO Q6H:PRN pain 
RX *tramadol 50 mg ___ tablet(s) by mouth every 6 hours Disp 
#*15 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Gonococcal epididymitis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Mr. ___, you were admitted to ___ with scrotal pain. You 
were found to have an infection that was likely not being 
treated by the antibiotics you were taking. Your antibiotics 
were changed with improvement in your symptoms.  Your high blood 
pressure medications were held upon discharge. Please do not 
restart chlorthalidone unless instructed to do so by your 
physician.  Please see below for your follow-up appointments.  
It was a pleasure caring for you and we wish you a speedy 
recovery!
 
Followup Instructions:
___